US03954732
2,2,2-Trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (0.54 g) was dissolved in absolute dimethylsulfoxide (5 ml). To this solution was added silver fluoroborate (0.20 g) and then the mixture was stirred under shielding from light for 3 hours at room temperature. To the solution was added a solution of triethylamine (0.1 g) in dimethylsulfoxide (0.5 ml) and the solution was further stirred for 5 hours and then allowed to stand overnight at room temperature. Precipitates were filtered off and the filtrate was poured into ice-water and then extracted with ethyl acetate. The extract was washed with water and dried. The residue obtained by distilling off the solvent under reduced pressure was crystallized by a small amount of ether to give colorless crystals of 2,2,2-trichloroethyl 3-hydroxy-3-methyl-7-(2-phenylacetamido)cepham-4-carboxylate (280 mg) (58 %). This substance was recrystallized from a mixed solvent of benzene-n-hexane to give colorless needles melting at 169° to 171°C.

reactant | 2,2,2-Trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 0.54 g | BrCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18BrCl3N2O4S
reactant | triethylamine | 0.1 g | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 0.5 ml | CS(=O)C | C2H6OS
catalyst | silver fluoroborate | 0.20 g | F[B-](F)(F)F.[Ag+]
product | 2,2,2-trichloroethyl 3-hydroxy-3-methyl-7-(2-phenylacetamido)cepham-4-carboxylate | 280 mg, 58 % | OC1(CS[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H19Cl3N2O5S
